US07253286B2
N6-Ethyl-4-(4-amino-3-chlorophenoxy)-7-benzyloxy-6-quinolinecarboxamide
After dissolving 4-amino-3-chlorophenol (379 mg, 2.64mmol) in dimethylsulfoxide (10 ml), sodium hydride (106 mg, 2.64 mmol) was gradually added at room temperature and the mixture was stirred for 30 minutes. N6-Ethyl-7-benzyloxy-4-chloro-6-quinolinecarboxamide (720 mg, 2.11 mmol) was added, and the mixture was heated at 100° C. for 2 hours while stirring. Upon cooling to room temperature, the reaction solution was distributed between ethyl acetate and water, and the organic layer was washed with ammonia water, water and saturated brine and dried over anhydrous sodium sulfate. The solvent was distilled off, suspended in ethyl acetate and diluted with hexane, and the crystals were filtered out and blow-dried to obtain the title compound (870 mg, 1.94 mmol, 92%) as brown crystals.

reactant | 4-amino-3-chlorophenol | 2.64mmol, 379 mg | NC1=C(C=C(C=C1)O)Cl | C6H6ClNO
reactant | sodium hydride | 2.64 mmol, 106 mg | [H-].[Na+]
reactant | N6-Ethyl-7-benzyloxy-4-chloro-6-quinolinecarboxamide | 2.11 mmol, 720 mg | C(C)NC(=O)C=1C=C2C(=CC=NC2=CC1OCC1=CC=CC=C1)Cl | C19H17ClN2O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylsulfoxide | 10 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | N6-Ethyl-4-(4-amino-3-chlorophenoxy)-7-benzyloxy-6-quinolinecarboxamide | 1.94 mmol, 870 mg, 92% | C(C)NC(=O)C=1C=C2C(=CC=NC2=CC1OCC1=CC=CC=C1)OC1=CC(=C(C=C1)N)Cl | C25H22ClN3O3
